US09079861B2
A solution of i-Pr2NH in THF (25 mL) was cooled to −78° C., n-BuLi (2.5M, 2 mL) was added and the solution was stirred for 1 h. Then methyl acetate (4.48 mmol, 278 mg) was added and the mixture was stirred for 30 min. To this solution Ti(Oi-Pr)3Cl (1 M, 9.4 mL) was added. After 0.5 h, (S)-2-methyl-N-(1-phenylethylidene)propane-2-sulfinamide (500 mg, 2.24 mmol) dissolved in THF (1 mL) was added. The mixture was stirred at −78° C. for 3 h. The reaction was quenched with NH4Cl and warmed to rt. The mixture was diluted with water and filtered. The solid was washed with H2O/EtOAc and filtered. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated. The residue was purified by preparative TLC to afford (R)-methyl 3-((S)-1,1-dimethylethylsulfinamido)-3-phenylbutanoate (305 mg, 46%). 1H NMR (CDCl3): 1.24 (s, 9H), 1.68 (s, 3H), 3.08 (s, 2H), 3.53 (s, 3H), 5.46 (s, 1H), 7.15-7.18 (m, 1H), 7.23-7.30 (m, 2H), 7.30-7.36 (m, 2H).

reactant | i-Pr2NH | N(C(C)C)C(C)C | C6H15N
reactant | n-BuLi | 2.5M, 2 mL | [Li]CCCC
reactant | methyl acetate | 4.48 mmol, 278 mg | C(C)(=O)OC | C3H6O2
reactant | (S)-2-methyl-N-(1-phenylethylidene)propane-2-sulfinamide | 2.24 mmol, 500 mg | CC(C)(C)[S@](=O)N=C(C)C1=CC=CC=C1 | C12H17NOS
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (R)-methyl 3-((S)-1,1-dimethylethylsulfinamido)-3-phenylbutanoate | 305 mg, 46% | CC(C)([S@](=O)N[C@@](CC(=O)OC)(C)C1=CC=CC=C1)C | C15H23NO3S
